### PR TITLE
Add Queue datatype

### LINKED ISSUE #3083: Add Queue datatype
The now closed #3072 shows that we currently lack a Queue structure in the standard library. This can generally be broken into a number of  (initial) sub-tasks:
- [ ] Define Queue and appropriate module structure (`Data.Queue` that then re-exports definitions of `Data.Queue.Base`?), and basic operations (enqueue, dequeue, fromList, toList, etc...)
- [ ] Prove basic, mostly 'obvious' properties
- [ ] Define effectfulnes
- [ ] Update CHANGELOG
- [ ] Add README files and documentation

From there, more properties, relations, etc... can be added as needed.

### PR DESCRIPTION
**Pull request by silas-hw**
Will eventually resolve #3083. Uses the two-list method mentioned in #3072 (but in a PR not generated by an LLM this time).

There may be some poor stylistic choices due to my unfamiliarity with the standard library, for which I am sorry! There are some 'low hanging' basic operations that could still be added, but I think those would be good for separate PRs.

### CODE REVIEW

**Comment by JacquesCarette** [comment]
When adding new functionality, we tend to make somewhat larger PRs than when fixing things. In particular, a bunch of properties should be proved too. The main reason is that quite often the proofs reveal when some of functionality was written in a correct-but-hard-to-use (or reason about) manner. So basically all of #3083 will need to be done in this PR.

On the other hand, asking for reviews of the intermediate steps is a good idea.

File: src/Data/Queue/Base.agda [hunk 1]
```diff
@@ -0,0 +1,88 @@
+------------------------------------------------------------------------
+-- The Agda standard library
+--
+-- Queues, basic types and operations
+------------------------------------------------------------------------
+{-# OPTIONS --without-K --safe #-}
+
+-- Queues implemented with the usual two-list method
```
Comment (JacquesCarette) [inline src/Data/Queue/Base.agda]: Reference?

File: src/Data/Queue/Base.agda [hunk 2]
```diff
@@ -0,0 +1,88 @@
...
+
+module Data.Queue.Base where
+
+open import Agda.Builtin.Equality
```
Comment (JacquesCarette) [inline src/Data/Queue/Base.agda]: We don't import `Agda.Builtin` directly unless it is extremely low-level code (which this isn't). Here you want `Relation.Binary.PropositionalEquality.Core`. And you'll want to use `using`.

File: src/Data/Queue/Base.agda [hunk 3]
```diff
@@ -0,0 +1,88 @@
...
+open import Level using (Level)
+open import Data.Bool
```
Comment (JacquesCarette) [inline src/Data/Queue/Base.agda]: Missing `using`. And you likely want `Data.Bool.Base`

File: src/Data/Queue/Base.agda [hunk 4]
```diff
@@ -0,0 +1,88 @@
...
+open import Data.List.Base as List using (List; []; _∷_; reverse; _++_; length)
+open import Data.Maybe.Base using (Maybe; nothing; just)
+open import Data.Nat.Base using (ℕ; zero; suc; _+_)
+open import Data.Product using (_×_; _,_)
+open import Function
```
Comment (JacquesCarette) [inline src/Data/Queue/Base.agda]: Likely you want `Function.Base` (with `using`).

File: src/Data/Queue/Base.agda [hunk 5]
```diff
@@ -0,0 +1,88 @@
...
+--
+-- The dequeue-list should be empty iff the whole queue is empty.
+-- To enforce this, the head of the dequeue list is taken
+-- seperately and a constructor for an empty queue is given.
+
+data Queue (A : Set l) : Set l where
+  empty : Queue A
+  
+  -- dequeue-head → dequeue-list → enqueue-list
+  queue : A → List A → List A → Queue A
```
Comment (JacquesCarette) [inline src/Data/Queue/Base.agda]: As was mentioned on the (closed) PR, one of these should be a `SnocList`.

File: src/Data/Queue/Base.agda [hunk 6]
```diff
@@ -0,0 +1,88 @@
...
+
+------------------------------------------------------------------------
+-- Construction & Destruction
+
+enqueue : Queue A → A → Queue A
```
Comment (JacquesCarette) [inline src/Data/Queue/Base.agda]: I think most APIs for `enqueue` tend to swap those arguments.

File: src/Data/Queue/Base.agda [hunk 7]
```diff
@@ -0,0 +1,88 @@
...
+enqueue empty a = queue a [] []  
+enqueue (queue dq-hd dq-tail eq) a = queue dq-hd dq-tail (a ∷ eq)
+
+dequeue : Queue A → Maybe (A × Queue A)
+dequeue empty = nothing
+dequeue (queue dq-hd [] eq) with reverse eq
+... | [] = just (dq-hd , empty)
+... | x ∷ req = just (dq-hd , queue x req [])
+dequeue (queue dq-hd (x ∷ xs) eq) = just (dq-hd , (queue x xs eq))
```
Comment (JacquesCarette) [inline src/Data/Queue/Base.agda]: I don't think you need the extra parens around queue on the rhs

File: src/Data/Queue/TwoList/Base.agda [hunk 8]
```diff
@@ -0,0 +1,88 @@
...
+
+dequeue : Queue A → Maybe (A × Queue A)
+dequeue empty = nothing
+dequeue (queue dq-hd [] eq) with reverse eq
+... | [] = just (dq-hd , empty)
+... | x ∷ req = just (dq-hd , queue x req [])
+dequeue (queue dq-hd (x ∷ xs) eq) = just (dq-hd , (queue x xs eq))
+
+------------------------------------------------------------------------
+--- Basic Functions
```
Comment (JacquesCarette) [inline src/Data/Queue/TwoList/Base.agda]: I guess we need to provide `isEmpty`, but I so wish we didn't! We don't want to encourage Boolean Blindness.

File: src/Data/Queue/Base.agda [hunk 9]
```diff
@@ -0,0 +1,88 @@
...
+
+isEmpty : Queue A → Bool
+isEmpty empty = true
+isEmpty _ = false
+
+size : Queue A → ℕ
+size empty = 0
+size (queue x xs ys) = 1 + length xs + length ys
+
+map : (A → B) → Queue A → Queue B
```
Comment (JacquesCarette) [inline src/Data/Queue/Base.agda]: I don't think we should provide a `map` on queues! But this may be a minority opinion. It reveals too much about the implementation.

File: src/Data/Queue/TwoList/Base.agda [hunk 10]
```diff
@@ -0,0 +1,88 @@
...
+--- Conversion to/from List
+
+-- Create a List from a Queue, such that the first that would be dequeued
+-- becomes the head of the list (i.e. the first element of the queue
+-- becomes the last element of the list)
+toList : Queue A → List A
+toList empty = []
+toList (queue dq-hd dq-tail eq) = dq-hd ∷ (dq-tail ++ (reverse eq))
+
+-- Create a Queue from a List, such that the elements
```
Comment (JacquesCarette) [inline src/Data/Queue/TwoList/Base.agda:90]: Probably consider `fromSnocList` too.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

File: src/Data/Queue/Base.agda [hunk 11]
```diff
@@ -0,0 +1,88 @@
...
+open import Data.List.Base as List using (List; []; _∷_; reverse; _++_; length)
+open import Data.Maybe.Base using (Maybe; nothing; just)
+open import Data.Nat.Base using (ℕ; zero; suc; _+_)
+open import Data.Product using (_×_; _,_)
+open import Function
+
+private
+  variable
+    l : Level
+    A B : Set l
```
Comment (jamesmckinna) [inline src/Data/Queue/Base.agda]: The `style-guide` and/or existing practice in the library, has this conventionally as

```suggestion
    a : Level
    A B : Set a
```
or even 

```suggestion
    a b : Level
    A : Set a
    B : Set b
```
(which has the same semantics as the first, but makes plain that `A` and `B` are intended to live at different levels)

The use of `\ell` for a `Level` (and hence, but rarely-almost-never, `l` as a 'Roman' version) is usually reserved for the `Level` of a *relation* on `A`...

File: src/Data/Queue/Base.agda (hunk 5 above)
Comment (jamesmckinna) [inline src/Data/Queue/Base.agda]: Interesting choice... but I think on balance I prefer the prior use of a `record` type with fields the two lists, but augmented with a (possibly irrelevant) proof of the invariant... this version has appeared in recent work of Swierstra et al. on reasoning about (amortised) complexity analysis of purely functional ADTs, roughly as follows:
```agda
record Queue (A : Set a) : Set a where
  constructor mkQ
  field
    front : List A
    back  : List A
    inv : Null front → Null back
```

where `Null` is one of the many possible, equivalent, definitions of being `[]`, viz. `T ∘ null` for `Data.Bool.Base.T` and `Data.List.Base.null`.

Then
```agda
empty : Queue A
empty = mkQ [] [] id
```
etc.

File: src/Data/Queue/Base.agda [hunk 12]
```diff
@@ -0,0 +1,88 @@
...
+... | [] = just (dq-hd , empty)
+... | x ∷ req = just (dq-hd , queue x req [])
+dequeue (queue dq-hd (x ∷ xs) eq) = just (dq-hd , (queue x xs eq))
+
+------------------------------------------------------------------------
+--- Basic Functions
+
+isEmpty : Queue A → Bool
+isEmpty empty = true
+isEmpty _ = false
```
Comment (jamesmckinna) [inline src/Data/Queue/Base.agda]: In the `record` version, this then becomes

```suggestion
isEmpty : Queue A → Bool
isEmpty = null front
```
however you organise the code so that the field name `front` is in scope...

Slightly better might be to define a version `empty?` returning a proof, for `q : Queue A` that `Dec (Empty q)`, for the *predicate* `Empty : Queue A →Set _` given by `Empty q = Null front` in like fashion, and then derive decidability using the `Dec` combinators in `Relation.Nullary.Decidable.Core`...

**Review by jamesmckinna — COMMENTED** [review]
Some alternative suggestions as to implementation.

Against @JacquesCarette , and because I'm a bit more 'OO-minded', I tend to put things like `Empty`/`isEmpty` as *manifest* fields of the record, because then I don't have to think about the scope management. Similarly `toList`, because all the pieces are at-hand without further ado... but YMMV.

As for references for this kind of implementation, probably Okasaki's "Purely functional data structures" would be the go-to citation?

Oh, and: `fix-whitespace`!

File: src/Data/Queue/TwoList/Base.agda (hunk 8 above)
Comment (jamesmckinna) [reply src/Data/Queue/TwoList/Base.agda]: So one way to avoid it is via `empty? : Decidable Empty` for the *predicate* `Empty` on queues... and then derive `isEmpty` as a Bool-valued observer, via `does`/`isYes`?

File: src/Data/Queue/Base.agda (hunk 9 above)
Comment (jamesmckinna) [reply src/Data/Queue/Base.agda]: Hmmm. Part of me agrees with you @JacquesCarette , but functoriality is so built-in to our thinking about parametrically polymorphic datatypes... another part disagrees!

File: src/Data/Queue/Base.agda (hunk 6 above)
Comment (jamesmckinna) [reply src/Data/Queue/Base.agda]: Two (opposing! IIUC) perspectives on this:
* from an OO-, design-by-contract, point-of-view, modifiers/updaters such as `enqueue` have type (roughly) `A -> void`, reflecting that that they do not produce an observable result, only a state change to the underlying `self` field of the object, internal state of the encapsulated ADT; from an implementor's point of view in such disciplines, the `self` field is usually the *first* pointer in the record representing the object (at least, IIUC!)
* from an FP, but 'stateful', point-of-view, such operations could be given type (roughly) `A -> M void` for the monad `M` associated with the definition, here most obviously the 'pure' `State` monad, proxying for functions of type `A -> S -> S` for the underlying internal state type `S`

I'm agnostic as to which is 'right'/'preferable', but I could imagine arguments in favour of either convention?

Comment (gallais) [reply src/Data/Queue/Base.agda]: I also did an implementation recently (in a Haskell project) and I had the same instinct as
Silas. The way I see it is spatially: the value is arriving on the right and taking its place in
the queue whose head is on the left.

However I have found the classic Okasaki formulation (the one Jacques refers to) to be
more convenient for point-free uses of `modify` to update a queue stored in a state.

**Comment by gallais** [comment]
> As for references for this kind of implementation, probably Okasaki's "Purely functional data structures" would be the go-to citation?

There is also https://doi.org/10.1017/S0956796800001489

File: src/Data/Queue/Base.agda (hunk 1 above)
Comment (jamesmckinna) [reply src/Data/Queue/Base.agda]: Okasaki?

**Comment by jamesmckinna** [comment]
> When adding new functionality, we tend to make somewhat larger PRs than when fixing things. In particular, a bunch of properties should be proved too. The main reason is that quite often the proofs reveal when some of functionality was written in a correct-but-hard-to-use (or reason about) manner. So basically all of #3083 will need to be done in this PR.
> 
> On the other hand, asking for reviews of the intermediate steps is a good idea.

So, eg.: 
```agda
toList-fromList : toList (fromList xs) ≡ xs
```
The converse direction requires some simulation relation on `Queue`s... but that's (probably) worth discussing/thinking about a bit more... although the `toList` observer of 'internal state' is already one kind of characteristic...

File: src/Data/Queue/Base.agda (hunk 5 above)
Comment (silas-hw) [reply src/Data/Queue/Base.agda]: Indeed, I think this is much cleaner than my attempt

Comment (silas-hw) [reply src/Data/Queue/Base.agda]: Hmm, using SnocList with this makes proving the invariant quite tedious (at least initially it seems), mainly in that Null either needs to be redefined on List< or `Null (toList> front)` needs to be used. Both make different parts of the rest of the code much messier.

I'll keep at it for a bit, but if it shows too tedious, perhaps I'll go back to the previous `data` definition? Or maybe stick with List instead of SnocList.

To me, there's also something a little nice having an invariant necessitated 'by construction' instead of needing to be proved, but also something nice about the record definition too.

File: src/Data/Queue/Base.agda [hunk 13]
```diff
@@ -0,0 +1,116 @@
...
+--
+-- Queues, basic types and operations
+------------------------------------------------------------------------
+{-# OPTIONS --without-K --safe #-}
+
+-- Queues implemented with the two-list method described in
+-- "Purely Functional Data Structures", Chris Okasaki, 1996
+--
+-- Note that the weaker invariant is used here that only guarantees
+-- ammortized O(1) when the structure is used non-persistently.
```
Comment (jamesmckinna) [inline src/Data/Queue/Base.agda]:
```suggestion
-- amortized O(1) when the structure is used non-persistently.
```
Typo!

File: src/Data/Queue/Base.agda [hunk 14]
```diff
@@ -0,0 +1,116 @@
...
+private
+  ¬Null : {a : A} {as : List A} → ¬ (Null (a ∷ as))
+  ¬Null (() Data.List.Relation.Unary.All.∷ n)
+
+enqueue : Queue A → A → Queue A
+enqueue (mkQ [] back inv) x = record
+  { front = (x ∷ [])
+  ; back  = back
+  ; inv   = (λ _ → inv [])
+  }
```
Comment (jamesmckinna) [inline src/Data/Queue/Base.agda]: Shouldn't this case of the definition be when the `back` list is *reversed*?

File: src/Data/Queue/Base.agda [hunk 15]
```diff
@@ -0,0 +1,116 @@
...
+enqueue (mkQ (dq-hd ∷ dq-tl) back inv) x = record
+  { front = (dq-hd ∷ dq-tl)
+  ; back  = (x ∷ back)
+  ; inv   = λ n → ⊥-elim (¬Null n)
+  }
```
Comment (jamesmckinna) [inline src/Data/Queue/Base.agda]: As-patterns + wildcards your friends here:
```suggestion
enqueue (mkQ front@(_ ∷ _) back _) x = record
  { front = front
  ; back  = (x ∷ back)
  ; inv   = λ n → ⊥-elim (¬Null n)
  }
```
Separately, you could also write a (possibly `private`) smart constructor which takes *non-`Null`* `front` and `back` and constructs a suitable `Queue` instance...

File: src/Data/Queue/Base.agda [hunk 16]
```diff
@@ -0,0 +1,116 @@
...
+
+dequeue : Queue A → Maybe (A × Queue A)
+dequeue (mkQ [] [] inv) = nothing
+-- shouldn't be possible?
+dequeue (mkQ [] (x ∷ back) inv) = nothing
```
Comment (jamesmckinna) [inline src/Data/Queue/Base.agda]: Indeed...
* `inv []` should be a proof that `Null (x ∷ back)`...
* ... so is eliminable with `⊥-elim`
* ... or else, which I prefer, but others not so much, we can do an irrefutable absurd match, something like

```agda
dequeue (mkQ [] (_ ∷ _) inv) with () ← inv []
```
but YMMV...

File: src/Data/Queue/Base.agda (hunk 14 above)
Comment (silas-hw) [reply src/Data/Queue/Base.agda]: If `front` is empty, `back` is empty

File: src/Data/Queue/TwoList/Base.agda (hunk 8 above)
Comment (jamesmckinna) [reply src/Data/Queue/TwoList/Base.agda]: And then even precondition `dequeue` to enforce that the queue is non empty, and avoid the need for `Maybe` myopia...

File: src/Data/Queue/Base.agda (hunk 14 above)
Comment (jamesmckinna) [reply src/Data/Queue/Base.agda]: D'oh... but hang on, oh no, you're right silly me.

**Comment by MatthewDaggitt** [comment]
My only comment is that these should consider whether this should be under `Data.Queue.X` where `X` describes the particular implementation (`X` = `DoubleList` maybe?). That way we have the ability to add different queue implementations later. I always regret that we didn't do this for `Map` etc.

**Comment by jamesmckinna** [comment]
> My only comment is that these should consider whether this should be under `Data.Queue.X` where `X` describes the particular implementation (`X` = `DoubleList` maybe?). That way we have the ability to add different queue implementations later. I always regret that we didn't do this for `Map` etc.

cf. #2976 which has still not had any serious discussion...

And for `Map` we now have the opportunity to rethink these things, and I agree that we *should*

File: src/Data/Queue/Base.agda [hunk 17]
```diff
@@ -0,0 +1,119 @@
...
+empty = mkQ [] [] id
+
+-- NOTE: might not be needed. Could be inlined? Existing lemmas exist?
+private
+  ¬Null : {a : A} {as : List A} → ¬ (Null (a ∷ as))
+  ¬Null (() Data.List.Relation.Unary.All.∷ n)
+
+enqueue : A → Queue A → Queue A
+enqueue x (mkQ [] back inv) = record
+  { front = (x ∷ [])
```
Comment (jamesmckinna) [inline src/Data/Queue/Base.agda]: No parentheses needed here... unless you feel like using the `List.[_]` operation

File: src/Data/Queue/Base.agda [hunk 18]
```diff
@@ -0,0 +1,119 @@
...
+  ; back  = back
+  ; inv   = (λ _ → inv [])
+  }
+enqueue x (mkQ front@(_ ∷ _) back _) = record
+  { front = front
+  ; back  = (x ∷ back)
```
Comment (jamesmckinna) [inline src/Data/Queue/Base.agda]: Ditto. `x ∷ back` suffices

File: src/Data/Queue/Base.agda [hunk 19]
```diff
@@ -0,0 +1,119 @@
...
+  ; back  = back
+  ; inv   = λ n → ⊥-elim (¬Null n)
+  })
+
+------------------------------------------------------------------------
+--- Basic Functions
+
+isEmpty : Queue A → Bool
+isEmpty (mkQ [] [] inv) = true
+isEmpty _ = false
```
Comment (jamesmckinna) [inline src/Data/Queue/Base.agda]:
```suggestion
isEmpty (mkQ front _ _) = List.null front
```
Or better?
```suggestion
isEmpty q = List.null (Queue.front q)
```

File: src/Data/Queue/Base.agda [hunk 20]
```diff
@@ -0,0 +1,119 @@
...
+-- becomes the head of the list (i.e. the first element of the queue
+-- becomes the last element of the list)
+toList : Queue A → List A
+toList q = Queue.front q ++ (reverse (Queue.back q))
+
+-- Create a Queue from a List, such that the elements
+-- of the list would be dequeued starting from its first element
+-- (i.e. the first element of the list becomes the last element of the queue)
+fromList : List A → Queue A
+fromList list = mkQ list [] (λ _ → [])
```
Comment (jamesmckinna) [inline src/Data/Queue/Base.agda]: meta variable name for `List A` is conventionally `xs`; similarly `x` for elements of arbitrary `A` (and reserving `a` for the universe level of `A`... somewhat counterintuitive, but... convention/consistency)

File: src/Data/Queue/Properties.agda [hunk 21]
```diff
@@ -0,0 +1,55 @@
...
+  variable
+    a b : Level
+    A : Set a
+    B : Set b
+
+  ¬Null : {a : A} {as : List A} → ¬ (Null (a ∷ as))
+  ¬Null (() Data.List.Relation.Unary.All.∷ n)
+
+toList-fromList : {xs : List A}  → toList (fromList xs) ≡ xs
+toList-fromList {a} {A} {[]} = begin
```
Comment (jamesmckinna) [inline src/Data/Queue/Properties.agda]: No need to bind `{a}`, nor `{A}`... they're implicit for a reason!

Comment (jamesmckinna) [reply src/Data/Queue/Properties.agda]: Whereas it might be better to make `xs` an *explicit* argument, as the typechecker can't necessarily pattern-match on an arbitrary goal to recognise a sub-expression of the form `toList (fromList xs)` in order to be able to thus infer the value of `xs`...

File: src/Data/Queue/Properties.agda [hunk 22]
```diff
@@ -0,0 +1,55 @@
...
+  toList (fromList []) ≡⟨⟩
+  toList (empty)       ≡⟨⟩
+  []                   ∎
+
+toList-fromList {a} {A} {x ∷ xs} = begin
```
Comment (jamesmckinna) [inline src/Data/Queue/Properties.agda]: [ DRY ] As-pattern again, and thus avoid the redundant repetition... 
```suggestion
toList-fromList {a} {A} {xs@(_ ∷ _)} = begin
```

File: src/Data/Queue/Properties.agda [hunk 23]
```diff
@@ -0,0 +1,55 @@
...
+  toList (fromList (x ∷ xs))          ≡⟨⟩
+  toList (mkQ (x ∷ xs) [] (λ _ → [])) ≡⟨⟩
+  (x ∷ xs) ++ (reverse [])            ≡⟨⟩
+  (x ∷ xs) ++ []                      ≡⟨ ++-identityʳ (x ∷ xs) ⟩
+  (x ∷ xs)                            ∎
+  
+-- enqueue increases size by 1
+enqueueSuc : (a : A) (q : Queue A) → (size (enqueue a q)) ≡ (suc (size q))
```
Comment (jamesmckinna) [inline src/Data/Queue/Properties.agda]: I'd be tempted to call such a lemma `size-enqueue`?

File: src/Data/Queue/Base.agda (hunk 6 above)
Comment (jamesmckinna) [reply src/Data/Queue/Base.agda]: Yes: `modify`/`enqueue` are *actions* of the carrier type on the queue state type...

**Comment by JacquesCarette** [comment]
I agree with `Data.Queue.X`, and that we should have 'specification' modules. It's not just Algebra which wants signatures!

File: src/Data/Queue/Properties.agda (hunk 22 above)
Comment (silas-hw) [reply src/Data/Queue/Properties.agda]: As-patterns really are useful!

**Comment by silas-hw** [comment]
> I agree with `Data.Queue.X`, and that we should have 'specification' modules. It's not just Algebra which wants signatures!

By 'specification', do you mean having a record defining an interface? I see some proofs currently given in Data.Queue.Properties themselves also being moreso specification (e.g. a proof that enqueue only increases size by 1)

Edit: just saw #2976! I agree very much

File: src/Data/Queue/Base.agda (hunk 9 above)
Comment (jamesmckinna) [reply src/Data/Queue/Base.agda]: I think that if the only property of `map` is that it commute with `toList`, then that makes it a 'reasonable' abstraction?

**Comment by silas-hw** [comment]
Is `src/Data/Queue/QueueSpec.agda` along the right lines?

**Comment by jamesmckinna** [comment]
[ DRY ] It occurred to me after thinking a bit more that you can almost entirely avoid explicit mention of `mkQ` or constructing `inv` fields,  if you introduce a *smart constructor*, here called `queue`, and rewrite the definitions just to use it, plus the `front` and `back` projections... :
```agda
private
  null-[] : ∀ {xs : List A} → Null xs → Null {A = A} []
  null-[] = const []

  null-∷ : ∀ {x} {xs ys : List A} → Null (x ∷ xs) → Null ys
  null-∷ (() ∷ _)

-- smart constructor to drive all that follows

queue : List A → List A → Queue A
queue []         ys = mkQ (reverse ys) [] null-[]
queue xs@(_ ∷ _) ys = mkQ xs ys null-∷

-- empty and singleton

empty : Queue A
empty = queue [] []

[_] : A → Queue A
[ x ] = queue List.[ x ] []

-- Queue API: enqueue and dequeue

enqueue : A → Queue A → Queue A
enqueue x q with bs ← Queue.back q | Queue.front q
... | []            = queue (reverse bs) []
... | front@(_ ∷ _) = queue front (x ∷ bs)

dequeue : Queue A → Maybe (A × Queue A)
dequeue q with Queue.front q
... | []     = nothing
... | x ∷ xs = just (x , queue xs (Queue.back q))
```

UPDATED: as @silas-hw has already corrected, 
```agda
enqueue x q with bs ← Queue.back q | Queue.front q
... | []            = [ x ]
```

**Comment by silas-hw** [comment]
Note: I'm having trouble with `fix-whitespace` on my laptop - seems to not run! I'll try fixing it before I next push

File: src/Data/Queue/QueueSpec.agda [hunk 24]
```diff
@@ -0,0 +1,33 @@
...
+
+{-# OPTIONS --without-K --safe #-}
+
+module Data.Queue.QueueSpec where
+
+open import Data.List.Base using (List)
+open import Data.Maybe.Base using (Maybe; nothing; just)
+open import Data.Nat.Base using (ℕ)
+open import Data.Product using (_×_; _,_)
+open import Level using (Level)
```
Comment (jamesmckinna) [inline src/Data/Queue/QueueSpec.agda]:
```suggestion
open import Level using (Level; suc)
```

File: src/Data/Queue/QueueSpec.agda [hunk 25]
```diff
@@ -0,0 +1,33 @@
...
+
+private
+  variable
+    a b : Level
+    A : Set a
+    B : Set b
+
+-- Along these lines?
+record IsQueue (Queue : (Set a) → (Set a)) : (Set (Level.suc a)) where
```
Comment (jamesmckinna) [inline src/Data/Queue/QueueSpec.agda]: Parentheses!
```suggestion
record IsQueue (Queue : Set a → Set a) : Set (suc a) where
```

File: src/Data/Queue/QueueSpec.agda [hunk 26]
```diff
@@ -0,0 +1,33 @@
...
+  field
+    enqueue : A → Queue A → Queue A
+    dequeue : Queue A → Maybe (A × Queue A)
+
+    empty : Queue A
+    size : Queue A → ℕ
+
+    toList : Queue A → List A
+    fromList : List A → Queue A
```
Comment (jamesmckinna) [inline src/Data/Queue/QueueSpec.agda]: I think that for a *spec*, we should also consider the *properties*
* `dequeue (enqueue x q) = just (x , q)`... except that we need to agree on what `=` means here... and we might want to re-express some of these things in terms of `toList`... etc.
* similarly, `dequeue q = just (x , r) → enqueue x r = q`
* `Empty q → dequeue q = nothing` and vice versa...
* ... what else?

For now, what's here is good, and we can agree on an expanded version downstream...

File: src/Data/Queue/TwoList/Base.agda [hunk 27]
```diff
@@ -0,0 +1,126 @@
...
+    A : Set a
+    B : Set b
+
+  ¬Null : {a : A} {as : List A} → ¬ (Null (a ∷ as))
+  ¬Null (() Data.List.Relation.Unary.All.∷ n)
+
+  null-[] : ∀ {xs : List A} → Null xs → Null {A = A} []
+  null-[] = const []
+
+  -- mckinna seems to have a better idea but currently doesnt type check
```
Comment (jamesmckinna) [inline src/Data/Queue/TwoList/Base.agda]: Oh!? I'll recheck... but thanks for the heads-up...

File: src/Data/Queue/TwoList/Base.agda [hunk 28]
```diff
@@ -0,0 +1,126 @@
...
+-- Note that the weaker invariant is used here that only guarantees
+-- amortized O(1) when the structure is used non-persistently.
+
+module Data.Queue.TwoList.Base where
+
+open import Level using (Level)
+open import Data.Bool.Base using (Bool; true; false)
+open import Data.Empty using (⊥-elim)
+open import Data.List.Base as List using (List; []; _∷_; reverse; _++_; length; null)
+open import Data.List.Relation.Unary.All using (Null; [])
```
Comment (jamesmckinna) [inline src/Data/Queue/TwoList/Base.agda]: Ah... this is why my lemma doesn't typecheck...

```suggestion
open import Data.List.Relation.Unary.All using (Null; []; _∷_)
```

File: src/Data/Queue/TwoList/Base.agda [hunk 29]
```diff
@@ -0,0 +1,126 @@
...
+
+  ¬Null : {a : A} {as : List A} → ¬ (Null (a ∷ as))
+  ¬Null (() Data.List.Relation.Unary.All.∷ n)
+
+  null-[] : ∀ {xs : List A} → Null xs → Null {A = A} []
+  null-[] = const []
+
+  -- mckinna seems to have a better idea but currently doesnt type check
+  null-∷ : ∀ {x} {xs ys : List A} → Null (x ∷ xs) → Null ys
+  null-∷ = λ x₁ → ⊥-elim (¬Null x₁)
```
Comment (jamesmckinna) [inline src/Data/Queue/TwoList/Base.agda]: Then this should work
```suggestion
  null-∷ (()∷ _)
```

File: src/Data/Queue/QueueSpec.agda (hunk 26 above)
Comment (Taneb) [reply src/Data/Queue/QueueSpec.agda]: Those first two aren't laws for queues! Because `x` ends up at the back of the queue, not the front. The relation between `enqueue` and `dequeue` is tricky, and I don't know how to express it...

File: src/Data/Queue/TwoList/Base.agda (hunk 8 above)
Comment (Taneb) [reply src/Data/Queue/TwoList/Base.agda]: Yes! _please_ have an `Empty` predicate and use that for `dequeue`. We can do better than we could in Haskell!

File: src/Data/Queue/QueueSpec.agda (hunk 26 above)
Comment (jamesmckinna) [reply src/Data/Queue/QueueSpec.agda]: :facepalm: of course you're right @Taneb and I'm a bit too tired to think straight. Good catch!

**Comment by jamesmckinna** [comment]
While I try to understand exactly what the `enqueue`/`dequeue` lemmas should be as part of the spec, some further refactoring decisions:
* define `toList` and `fromList` *before* defining `queue`...
* ... permitting the following [ DRY ] simplifications
  ```agda
  queue : List A → List A → Queue A
  queue []         ys = fromList (reverse ys)
  queue xs@(_ ∷ _) ys = mkQ xs ys null-∷

  empty : Queue A
  empty = fromList []

  pure : A → Queue A
  pure = fromList ∘ List.[_]
  ```
* the use of `pure` betrays that I would favour giving `Queue` the `map`/`pure` part of the general container interface...
* ... and rather than have `singleton` identified as such, simply offer *syntax* for `pure` as `syntax pure x = [ x ]` cf. https://github.com/agda/agda-stdlib/discussions/3073#discussioncomment-17785805
* ... more to follow

**Comment by jamesmckinna** [comment]
A better `dequeue` @Taneb in particular: consider instead making the `Maybe` version a *derived* form, moreover with the 'simpler function gets a `′` annotation' naming heuristic, so `dequeue′`, here, by having a guarded version of `dequeue` as follows, using `False` from `Decidable.Core` to write the guard using `empty? : Dec (Null front)` with the obvious definition:
```agda
dequeue : ∀ (q : Queue A) .{{_ : False (empty? q)}} → A × Queue A
dequeue q with x ∷ xs ← Queue.front q = x , queue xs (Queue.back q)
```
from which then follows, admittedly somewhat more clunkily...
```agda
dequeue′ : Queue A → Maybe (A × Queue A)
dequeue′ q with empty? q in eq
... | yes _ = nothing
... | no _  = just (dequeue q)
  where instance
  _ : False (empty? q)
  _ rewrite eq = _
```

File: src/Data/Queue/QueueSpec.agda (hunk 26 above)
Comment (jamesmckinna) [reply src/Data/Queue/QueueSpec.agda]: As a first step to recovering my dignity in the face of the above stupidities, suggest we further add
```agda
_≈_ : Rel (Queue A) _
_≈_ = _≡_ on toList
```
where this could be lifted up a level (*sic*) if we consider instead the *setoid* of '`Queue`s over a `Setoid S`'?

File: src/Data/Queue/TwoList/Base.agda (hunk 28 above)
Comment (jamesmckinna) [reply src/Data/Queue/TwoList/Base.agda]: Now see #3091

File: src/Data/Queue/TwoList/Base.agda (hunk 29 above)
Comment (jamesmckinna) [reply src/Data/Queue/TwoList/Base.agda]: Ditto.

**Comment by jamesmckinna** [comment]
> Note: I'm having trouble with `fix-whitespace` on my laptop - seems to not run! I'll try fixing it before I next push

Done.

File: src/Data/Queue/TwoList/Base.agda (hunk 8 above)
Comment (jamesmckinna) [reply src/Data/Queue/TwoList/Base.agda]: See below.

File: src/Data/Queue/Base.agda (hunk 9 above)
Comment (jamesmckinna) [reply src/Data/Queue/Base.agda]: @JacquesCarette When you say 
> ... It reveals too much about the implementation.

Is there a 'free theorem' which would assert anything about `map` in such a way as to expose its implementation here? Or what else might you have had in mind? It does seem 'natural' that one could `map` over a queue, and expect to get each `enqueue`d or `dequeue`d element back in `map`ped form, moreover in the correct order? or not?

Comment (JacquesCarette) [reply src/Data/Queue/Base.agda]: Let me put it the other way around: if I were to write (say) a queue of bits using a compressed encoding, then that would not, according to your definition, be a queue at all.

To me, there are some abstract data types (like stack and queue) which are very much not 'containers' in the traditional sense, in that they don't expect to be polymorphic over their data.

Having said that: there should be a `Queue` and a `PolymorphicQueue` interface. They are different interfaces. The latter has more in it (such as `map`) that constrain the implementation even more.

Comment (jamesmckinna) [reply src/Data/Queue/Base.agda]: No, that's fair enough. I think that *this* implementation does/should admit `map` though... but the spec need not necessarily do so!

File: src/Data/Queue/QueueSpec.agda (hunk 26 above)
Comment (jamesmckinna) [reply src/Data/Queue/QueueSpec.agda]: Grrr. I've been very dim about this. See below.

**Comment by jamesmckinna** [comment]
> Is `src/Data/Queue/QueueSpec.agda` along the right lines?

As an alternative (for discussion!), I came up with (UPDATED)
```agda
module Data.Queue.Spec where

open import Data.Bool.Base using (Bool)
open import Data.List.Base as List using (List; []; length)
open import Data.Maybe.Base using (Maybe; nothing; just)
open import Data.Nat.Base using (ℕ)
open import Data.Product.Base using (_×_)
open import Function.Base using (_∘_)
open import Level
open import Relation.Binary.Core using (Rel)
open import Relation.Binary.PropositionalEquality.Core using (_≡_)
open import Relation.Nullary.Decidable.Core using (yes; no; isYes; False)
open import Relation.Unary using (Pred; Decidable)

private
  variable
    a : Level
    A : Set a

record RawQueue (Q : Set a → Set a) : Set (suc a) where

  field
    _≈_      : ∀ {A : Set a} → Rel (Q A) a
    Empty    : ∀ {A : Set a} → Pred (Q A) a
    empty?   : Decidable (Empty {A = A})
    fromList : List A → Q A
    toList   : Q A → List A
    enqueue  : A → Q A → Q A
    dequeue  : (q : Q A) → .{{False (empty? q)}} → A × Q A
      
  empty : Q A
  empty = fromList []

  pure    : A → Q A
  pure = fromList ∘ List.[_]

  toℕ : Q A → ℕ
  toℕ = length ∘ toList

  to𝔹 : Q A → Bool
  to𝔹 = isYes ∘ empty?

  dequeue′ : Q A → Maybe (A × Q A)
  dequeue′ q with empty? q in eq
  ... | yes _ = nothing
  ... | no _  = just (dequeue q)
    where instance
    _ : False (empty? q)
    _ rewrite eq = _

record IsQueue {Q : Set a → Set a} (rawQ : RawQueue Q) : Set (suc a) where

  open RawQueue rawQ

  field
    empty-toList   : toList (empty {A = A}) ≡ []
    fromList-empty : empty {A = A} ≈ fromList []
    -- etc.
```

as a starting point:
* `RawQueue`: consider 'just' the type constructor plus operations, cf. `Algebra.Bundles.Raw`
* `IsQueue`: then for such an operational signature, whether it actually defines `Queue`-like behaviour

**Comment by silas-hw** [comment]
I think that's a generally good direction to go in, even if just to be consistent with Algebra.* . I remember briefly talking about Raw* interfaces with @TOTBWF, but can't exactly remember what was brought up.

**Comment by silas-hw** [comment]
>     * ... permitting the following [ DRY ] simplifications
>       ```agda
>       queue : List A → List A → Queue A
>       queue []         ys = fromList (reverse ys)
>       queue xs@(_ ∷ _) ys = mkQ xs ys null-∷
>       ```

`fromList` uses the `queue` smart constructor! In a way which fails the termination checker as well (at least currently)...

**Comment by silas-hw** [comment]
~~I think `_≈_` can be defined regardless of implementation in terms of enqueue:~~

```agda
data _≈_ {A : Set a} : Queue A → Queue A → Set a where
  refl : ∀ {q : Queue A} → q ≈ q
  enq  : ∀ {q q' : Queue A} {x : A} → q ≈ q' → (enqueue x q) ≈ (enqueue x q')
```

See below

**Comment by gallais** [comment]
Isn't `_≈_` defined inductively equivalent to `_≡_`?

**Comment by silas-hw** [comment]
> Isn't `_≈_` defined inductively equivalent to `_≡_`?

Yeah, it is...

~~How else would you go about defining it? Or is it good to keep this alongside a proof of logical equivalence?~~

Edit: I see where I'm going wrong! It's not observational at all...

**Comment by jamesmckinna** [comment]
> > ```
> > * ... permitting the following [ DRY ] simplifications
> >   ```agda
> >   queue : List A → List A → Queue A
> >   queue []         ys = fromList (reverse ys)
> >   queue xs@(_ ∷ _) ys = mkQ xs ys null-∷
> >   ```
> > ```
> 
> `fromList` uses the `queue` smart constructor! In a way which fails the termination checker as well (at least currently)...

Sorry! I'd in the meantime refactored my own experiment to have
```agda
fromList : List A → Queue A
fromList xs = mkQ xs [] (const [])
```
which is obviously uncoupled from `queue` (and indeed, that is the point!).

File: src/Data/Queue/QueueSpec.agda [hunk 30]
```diff
@@ -0,0 +1,72 @@
...
+-- IsQueue bundles RawQueue with proofs of a Queues correctness,
+-- such as enqueue adding 1 to the Queue's size
+-- NOTE: not finished adding everything!
+record IsQueue {Q : Set a → Set a} (rawQ : RawQueue Q) : Set (suc a) where
+
+  open RawQueue rawQ
+
+  field
+    empty-toList   : toList (empty {A = A}) ≡ []
+    fromList-empty : empty {A = A} ≈ fromList []
```
Comment (jamesmckinna) [inline src/Data/Queue/QueueSpec.agda]: Thanks for this... I'd needed some specimen fields, but it occurs to me that we should only add `IsQueue` once we *actually* agree what properties we want!

File: src/Data/Queue/TwoList/Base.agda [hunk 31]
```diff
@@ -0,0 +1,147 @@
...
+empty = fromList []
+
+enqueue : A → Queue A → Queue A
+enqueue x q with bs ← Queue.back q | Queue.front q
+... | []            = queue (x ∷ []) []
+... | front@(_ ∷ _) = queue front (x ∷ bs)
+
+dequeue : ∀ (q : Queue A) .{{_ : False (empty? q)}} → A × Queue A
+-- dequeue q with (x ∷ xs) ← (Queue.front q) = x , queue xs (Queue.back q)
+dequeue (mkQ (x ∷ xs) back inv) = x , (queue xs back)
```
Comment (jamesmckinna) [inline src/Data/Queue/TwoList/Base.agda]: Yup. Looks cleaner! That said...
```suggestion
dequeue (mkQ (x ∷ xs) back _) = x , queue xs back
```
Part of the point of only using the `front`/`back` projections is that `inv` is *almost always* irrelevant to the API, and only relevant to the internal `queue` operation... but that's debatable... here, the main use of `inv` is to be able to reduce `Empty` to `Null front` (so that we also have `Null back` as a consequence).

So we could, for example, instead write
```
dequeue record { front = x ∷ xs ; back = back } = x , queue xs back
```

File: src/Data/Queue/QueueSpec.agda (hunk 30 above)
Comment (jamesmckinna) [reply src/Data/Queue/QueueSpec.agda]: Eg the above two properties, I think, follow from:
```agda
record IsQueue {Q : Set a → Set a} (rawQ : RawQueue Q) : Set (suc a) where

  open RawQueue rawQ

  field
    isEquivalence   : IsEquivalence (_≈_ {A = A})
    ≈-resp-Empty    : Empty Respects (_≈_ {A = A})
    ≈-=[toList]⇒-≡  : _≈_ {A = A} =[ toList ]⇒ _≡_
    empty-toList    : ∀ {q : Q A} → Empty q → Null (toList q)
    empty-fromList  : Null {A = A} xs → Empty (fromList xs)
    toList-fromList : ∀ {q : Q A} → q ≈ fromList xs → toList q ≡ xs
    fromList-toList : ∀ {q : Q A} → xs ≡ toList q → fromList xs ≈ q
    toList-enqueue  : ∀ {q : Q A} → toList (enqueue x q) ≡ toList q List.∷ʳ x
    toList-dequeue  : ∀ {q : Q A} → .{{i : False (empty? q)}} →
                      let x , r = dequeue q {{i}} in toList q ≡ x ∷ toList r
```

File: src/Data/Queue/TwoList/Base.agda [hunk 32]
```diff
@@ -0,0 +1,147 @@
...
+
+empty : Queue A
+empty = fromList []
+
+enqueue : A → Queue A → Queue A
+enqueue x q with bs ← Queue.back q | Queue.front q
+... | []            = queue (x ∷ []) []
+... | front@(_ ∷ _) = queue front (x ∷ bs)
+
+dequeue : ∀ (q : Queue A) .{{_ : False (empty? q)}} → A × Queue A
```
Comment (gallais) [inline src/Data/Queue/TwoList/Base.agda]: I don't think this will be ergonomic to use as opposed to the
`Maybe`-returning one.

Note that the `List` equivalents are all `Maybe`-based:
https://agda.github.io/agda-stdlib/master/Data.List.Base.html#8038

I'm not against having a `dequeue`-style variant that always succeeds
by constraining its input but in that case it should be suffixed IMO. We 
may also want to go for full-blown size-indexed queues in that case.

File: src/Data/Queue/QueueSpec.agda (hunk 30 above)
Comment (silas-hw) [reply src/Data/Queue/QueueSpec.agda]: I think `enqueue-suc` is good to add as well. And maybe something like

```agda
empty-enqueue-dequeue : ∀ {q : Q A} {x : A} → Empty q → proj₁ (dequeue (enqueue x q)) ≡ x
```

And just generally some more properties on the behaviour of enqueue and dequeue

File: src/Data/Queue/TwoList/Base.agda (hunk 32 above)
Comment (silas-hw) [reply src/Data/Queue/TwoList/Base.agda]: I'm torn between the two directions myself; I don't have enough 'proof intuition' to know which is best! It's an easy change between the two for the most part, so I'll let other maintainers discuss :-)

Comment (jamesmckinna) [reply src/Data/Queue/TwoList/Base.agda]: Well, in a way, the definition of `dequeue′` as a derived form shows the clunkiness, so in that sense I agree.

I'd understood from @Taneb 's comments above that this was an opportunity for something *other* than the pure-haskell-ish style, and of course that style is a major influence on the 'core' of `stdlib`. And yes: on whatever types things should have, in the spec or in any candidate implementation, we should reach a reasonable consensus! But nothing stops us from having the `Maybe` style...

What name do you think the 'guarded' version should have?

File: src/Data/Queue/QueueSpec.agda (hunk 30 above)
Comment (silas-hw) [reply src/Data/Queue/QueueSpec.agda]: Given `toList-enqueue` and `toList-dequeue`, I think `_≈_` can be defined generically as

```agda
_≈_ : ∀ {A : Set a} → Rel (Q A) a
q ≈ q' = (toList q) ≡ (toList q')
```

Which is how it is currently defined in TwoList.Base!

But would this mean moving `_≈_ ` to `IsQueue`? which feels like it somewhat betrays the distinction between `RawQueue` and `IsQueue`...

File: src/Data/Queue/TwoList/Base.agda (hunk 32 above)
Comment (jamesmckinna) [reply src/Data/Queue/TwoList/Base.agda]: Oh, and regarding the ergonomics (I've always been a bit shaky on `True`/`False`... ;-)), we can simplify this a bit to 
```agda
dequeue : Q A → Maybe (A × Q A)
dequeue q with isEmpty q in eq
... | true  = nothing
... | false = just (dequeue-guarded q)
  where instance
  _ : T (not (isEmpty q))
  _ rewrite eq = _
```
for the 'obvious' renamings of everything that has gone before, and unfolding `False`...

File: src/Data/Queue/QueueSpec.agda (hunk 30 above)
Comment (jamesmckinna) [reply src/Data/Queue/QueueSpec.agda]: To maintain 'abstraction', it seemed that simply requiring an *implication* in the spec was preferably to insisting this be *definitional*... the fact that the proof of that property is then trivial for `TwoList.Base` is a bonus...?

Ah.. you think it's *definable* as `_≈_ = _≡_ on toList` (see `Function.Base._on_`) given the `toList` characterisations? Could be!?

Comment (jamesmckinna) [reply src/Data/Queue/QueueSpec.agda]: > I think `enqueue-suc` is good to add as well. And maybe something like
> 
> empty-enqueue-dequeue : ∀ {q : Q A} {x : A} → Empty q → proj₁ (dequeue (enqueue x q)) ≡ x
> 
> And just generally some more properties on the behaviour of enqueue and dequeue

Hmmm... there is a whole thing here, and I'd like @JacquesCarette and @MatthewDaggitt to weigh in on this, as it's *yet another* twist on the 'narrow' vs. 'wide' signature for a given 'algebraic specification'. The `enqueue-suc` property might seems good to have, but it is in any case derivable once you have `toList-enqueue`, isn't it?

File: src/Data/Queue.agda [hunk 33]
```diff
@@ -0,0 +1,11 @@
+------------------------------------------------------------------------
+-- The Agda standard library
+--
+-- Queues
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+module Data.Queue where
```
Comment (jamesmckinna) [inline src/Data/Queue.agda:9]: Maybe this should itself be `Data.Queue.TwoList` as the top-level (sic) module for this implementation?
Again, up for discussion!

File: src/Data/Queue/TwoList/Base.agda [hunk 34]
```diff
@@ -0,0 +1,147 @@
...
+-- map f empty = empty
+-- map f (queue x xs ys) = queue (f x) (List.map f xs) (List.map f ys)
+
+------------------------------------------------------------------------
+-- Relations
+
+-- Under the property that toList returns a list in
+-- the order of dequeue
+_≈_ : ∀ {A : Set a} → Rel (Queue A) a
+q ≈ q' = (toList q) ≡ (toList q')
```
Comment (jamesmckinna) [inline src/Data/Queue/TwoList/Base.agda:123]: See below. `stdlib` style would favour delegating to `_≡_ on toList` (and then the parentheses would go away... which as already noted, is a global comment on this PR... ;-))

File: src/Data/Queue/TwoList/Base.agda [hunk 35]
```diff
@@ -0,0 +1,147 @@
...
+-- list. If this is empty, the enqueue list is reversed and swapped
+-- with the dequeue list.
+--
+-- The dequeue-list should be empty iff the whole queue is empty.
+
+record Queue (A : Set a) : Set a where
+  constructor mkQ
+  field
+    front : List A
+    back  : List A
```
Comment (gallais) [inline src/Data/Queue/TwoList/Base.agda:58]: Have we given up on the snoclist?

Comment (jamesmckinna) [reply src/Data/Queue/TwoList/Base.agda:58]: Not as such, but there's a hint above that the trade-offs associated with that choice seem to complicate matters?

From the point of view of the API, obviously the choice shouldn't matter, so the question is whether the ergonomics of one choice over the other does matter...?

In each case, it seems as though there will always be *some* `O(n)` behaviour associated with the `queue` smart constructor/`fromList`, so what would the trade-offs be?

For implementing double-ended queues, there perhaps are clear(er) advantages to a snoclist implementation? And we should surely have such queues as well... esp. given your Okasaki citation for improving the amortized complexity?

File: src/Data/Queue/QueueSpec.agda [hunk 36]
```diff
@@ -0,0 +1,72 @@
...
+    dequeue  : (q : Q A) → .{{False (empty? q)}} → A × Q A
+
+  empty : Q A
+  empty = fromList []
+
+  pure    : A → Q A
+  pure = fromList ∘ List.[_]
+
+  toℕ : Q A → ℕ
+  toℕ = length ∘ toList
```
Comment (jamesmckinna) [inline src/Data/Queue/QueueSpec.agda]: I was getting bored of writing `size`, and indeed of the fact that each 'classical' ADT seems to use a different name 'size', 'length', ... depending on the actual situation being modelled... `toℕ` is probably a bad name, given that there won't in general be a canonical homomorphism to `ℕ` (wrt what algebraic structure!?), but this name is somehow more 'neutral'?

Again, always happy to have such names up for discussion, but currently `Properties` fails to check because it *does* use/expect `size` to be defined ;-)

File: src/Data/Queue/QueueSpec.agda [hunk 37]
```diff
@@ -0,0 +1,72 @@
...
+
+  to𝔹 : Q A → Bool
+  to𝔹 = isYes ∘ empty?
```
Comment (jamesmckinna) [inline src/Data/Queue/QueueSpec.agda:54]: Similarly, should this be called `null`? or `isEmpty`? or what, in general...

File: src/Data/Queue/QueueSpec.agda (hunk 36 above)
Comment (silas-hw) [reply src/Data/Queue/QueueSpec.agda]: I am quite happy with `size`. To me, `length` makes sense for something like `List`, where there is a 'clear' way of listing its elements, and `size` makes more sense for something like `Queue` in which the way it 'holds' items is more opaque, if that makes sense?

In my head, at least, I picture a List as something I can lay out and measure with a ruler (i.e. 'length'), whereas a Queue is a 'blob' for which I can just tell how 'big' it is... but that's just how my brain sees things and not necessarily indicative of the best naming convention.

File: src/Data/Queue/TwoList/Base.agda (hunk 35 above)
Comment (jamesmckinna) [reply src/Data/Queue/TwoList/Base.agda:58]: Related (or not?): @gallais your mention of FIFO queues in #480 ... is there more to say about this here?

Comment (silas-hw) [reply src/Data/Queue/TwoList/Base.agda:58]: I will try again with SnocList now, but my previous attempts seemed to complicate managing the invariant a lot (namely in that `Null` doesn't have an equivalent definition for SnocList, so you end up with something along the lines of `Null (toList> front)` in the invariant).

With the smart constructor, this shouldn't be as much of an issue at all. 

May also be a hint that there should SnocList.Properties? But the fact *most* of that would be a repetition of List.Properties but with SnocList instead smells off to me; is there a better way of handling it than manually re-defining list properties on SnocList?

File: src/Data/Queue/QueueSpec.agda (hunk 36 above)
Comment (jamesmckinna) [reply src/Data/Queue/QueueSpec.agda]: Absolutely reasonable intuition!

File: src/Data/Queue/TwoList/Base.agda (hunk 35 above)
Comment (silas-hw) [reply src/Data/Queue/TwoList/Base.agda:58]: Indeed, I have had difficulty again, all in the lack of a `Null<` and the messiness of using `Null (toList> front)`. I think it would be an easy change once more is there for SnocList? ~~Due to the scope, I think it's a separate PR deal (which I can help start!)~~

~~For now, having `List` for both seems semi-reasonable, in that at least *most* users won't ever look at the specific implementation anyway and use the API instead, and that the change will (eventually) be easy to implement.~~

EDIT: Actually, I think it wouldn't be too much to add just the basic definitions of `All<` and `Null<` within this PR?

Comment (gallais) [reply src/Data/Queue/TwoList/Base.agda:58]: `Null` for snoclist should definitely not go via `toList>`

File: src/Data/Queue/QueueSpec.agda [hunk 38]
```diff
@@ -0,0 +1,84 @@
...
+    ≈-resp-Empty    : Empty Respects (_≈_ {A = A})
+    ≈-=[toList]⇒-≡  : (_≈_ {A = A}) =[ toList ]⇒ _≡_
+    empty-toList    : ∀ {q : Q A} → Empty q → Null (toList q)
+    empty-fromList  : ∀ {xs : List A} → Null {A = A} xs → Empty (fromList xs)
+    toList-fromList : ∀ {q : Q A} {xs : List A} → q ≈ fromList xs → toList q ≡ xs
+    fromList-toList : ∀ {q : Q A} {xs : List A} → xs ≡ toList q → fromList xs ≈ q
+    toList-enqueue  : ∀ {q : Q A} {x : A} → toList (enqueue x q) ≡ toList q List.∷ʳ x
+    -- for some reason, let x , r = ... doesn't bind x and r??
+    toList-dequeue  : ∀ {q : Q A} → .{{i : False (empty? q)}} →
+                      let xr = dequeue q {{i}} in (toList q) ≡ (proj₁ xr) ∷ (toList (proj₂ xr))
```
Comment (jamesmckinna) [inline src/Data/Queue/QueueSpec.agda]: Don't quite know what happened here; the irrefutable `let`-binding for the pair worked for me!?

And... for what will probably *not* be the last time: please please please remove parentheses where you can. (and you can, a lot...)

File: src/Data/Queue/Base.agda (hunk 9 above)
Comment (jamesmckinna) [reply src/Data/Queue/Base.agda]: To tie this off, I'll just include a possible implementation of `map` here... let others decide whether it belongs in `Base`:
```agda
map : (A → B) → Queue A → Queue B
map f (mkQ front back inv) =
  mkQ (List.map f front) (List.map f back) (All.map⁺ ∘ inv ∘ All.map⁻)
```

File: src/Data/Queue/QueueSpec.agda (hunk 38 above)
Comment (silas-hw) [reply src/Data/Queue/QueueSpec.agda]: I'll do a big sweep through for parens now! Sorry not catching it.

When trying type check the let binding it gives me `Not in scope: r` for whatever reason.

File: src/Data/Queue/TwoList/Base.agda (hunk 35 above)
Comment (silas-hw) [reply src/Data/Queue/TwoList/Base.agda:58]: Added All< and Null< and moved to SnocList!

**Comment by silas-hw** [comment]
Note: sorry for pushing a file with holes in!

File: src/Data/Queue/QueueSpec.agda (hunk 30 above)
Comment (jamesmckinna) [reply src/Data/Queue/QueueSpec.agda]: See also @MatthewDaggitt 's [comment](https://github.com/agda/agda-stdlib/pull/1552#issuecomment-887981677) on #1552 ... it seems my instinct towards minimality/definitional extension may be at odds with usability. So a design more akin to that introduced as `Effect.Foldable.RawFoldable{WithDefaults}` might be more suitable?

File: src/Data/Queue.agda (hunk 33 above)
Comment (silas-hw) [reply src/Data/Queue.agda:9]: As in have a file `Data/Queue/TwoList.agda` with this content?

Indeed, this file itself will be changed to not just have `TwoList.Base` imported, and will then likely import `Data,Queue.TwoList` instead?

File: src/Data/Queue/QueueSpec.agda (hunk 30 above)
Comment (silas-hw) [reply src/Data/Queue/QueueSpec.agda]: I like the general idea of `Effect.Foldable.RawFoldable{WithDefaults}`  a lot, but wonder if there's an approach that doesn't require *two* records? 

Obviously, native 'defaults' would be nice, but in is place, maybe a function/constructor that could take an implementation of the minimal interface and fill in the 'defaults'?

For lemmas/proofs, maybe there's also room to consider what should just be generic properties of Queues and not part of the interface, such that they would be placed in say `Queue.Properties`.

All open to discussion!

File: src/Data/Queue/TwoList/Properties.agda [hunk 39]
```diff
@@ -118,31 +118,45 @@ size-empty = refl
...
+      back[] = null[] (inv [])
 
-toList-front : ∀ {xs : Queue A} → toList xs ≡ [] → Queue.front xs ≡ []
-toList-front {xs = xs@(mkQ front back inv)} xs≡[] = begin
-  {!!} ≡⟨⟩
-  {!!} ≡⟨⟩
-  {!!} ≡⟨⟩
-  {!!}
+  ++-[] : ∀ {xs ys : List A} → (xs ++ ys) ≡ [] → ys ≡ []
+  ++-[] {xs = []} {ys = []} xs++ys≡[] = xs++ys≡[]
```
Comment (gallais) [inline src/Data/Queue/TwoList/Properties.agda]: Note that the equivalent properties in `Data.Nat.Properties` have more complex names:

```agda
m+n≡0⇒m≡0 : ∀ m {n} → m + n ≡ 0 → m ≡ 0
m+n≡0⇒n≡0 : ∀ m {n} → m + n ≡ 0 → n ≡ 0
```

I personally would expect `++-[]` to be a proof that `xs ++ [] ≡ xs`

Comment (silas-hw) [reply src/Data/Queue/TwoList/Properties.agda]: There are two hard things in computer science...

Descriptive names is definitely something I need to get a hold of!

**Comment by silas-hw** [comment]
Should instances bet put into a `.Instances` module, or put into the file that defines their component parts? Whichever we go with, I think it should be put into the style guide.

**Comment by JacquesCarette** [comment]
> Should instances bet put into a `.Instances` module, or put into the file that defines their component parts? Whichever we go with, I think it should be put into the style guide.

Yes to instances going into a `.Instances` module. If the component parts are independently useful, they can go elsewhere. Fully agree that should go in the style guide.

[I'll do a full pass on all the comments / code later.]

**Comment by silas-hw** [comment]
Oh no! Some properties of `IsQueue` require an already existing instance of `RawQueue` to be provided Thus an instance of `IsQueue` would require properties proven that themselves require an instance of `RawQueue` - circular dependency! (Properties would import Instances, and Instances would import Properties)

**Comment by jamesmckinna** [comment]
hmmm... circular dependencies? Does splitting the `Spec` module into two help at all?

**Comment by silas-hw** [comment]
I think it would rather be splitting `Instances`. I.e. have `TwoList-RawQueue` defined as an instance *somewhere*, have that imported into `Properties`, which can then be imported into some module that defines `TwoList-IsQueue` - but this does go against the current style.

Or maybe moving the definitions used in the instance of `IsQueue` to the `Instances` file itself, but this would result in a `Instances` file containing mostly properties.

File: src/Data/Queue/TwoList/Base.agda [hunk 40]
```diff
@@ -0,0 +1,123 @@
...
+empty? (mkQ (xs <: x) back inv) .Relation.Nullary.proof = ofⁿ λ null< → contradiction null< ¬null-<:
+
+isEmpty : Queue A → Bool
+isEmpty q = SnocList.null (Queue.front q)
+
+------------------------------------------------------------------------
+--- Smart Constructor
+
+queue : List< A → List A → Queue A
+queue []          ys = mkQ (fromList> (reverse ys)) [] (const [])
```
Comment (jamesmckinna) [inline src/Data/Queue/TwoList/Base.agda]: Ca the call to  `fromList> (reverse ys)` be fused into something simpler?

Comment (gallais) [reply src/Data/Queue/TwoList/Base.agda]: In my mind it should be a chips ([`<>>`](http://agda.github.io/agda-stdlib/master/Data.SnocList.Base.html#3114)).

However, that is because I personally would expect the type of back & front to be the
other way around. This is how I visualise a queue:

```
  ,--- head of the queue from which we are dequeueing values
  |                  ,---- split where the front ends and the back starts
  v                  v     
  1 :: 2 :: 3 :: []    [<] :< 4 :< 5 :< 6
                                        ^
                                        |
  very back of the queue where we enqueue values
```

Values travel up the queue from right to left until they reach the head and are popped.
The operation by which we turn the back into the new front when we notice the current front
is empty is `back <>> []` because `_<>>_` respects the left-to-right ordering of values.

Comment (silas-hw) [reply src/Data/Queue/TwoList/Base.agda]: Hmm, I suppose I was visualising it the other way round, with values being enqueued from the left and dequeued on the right, i.e.

```
Back of the queue
|
v
6 :: 5 :: 4 ... <: 3 <: 2 <: 1
                             ^
                             |
                        front of the queue
```

Indeed, however, there shouldn't be a `reverse`!. This actually gives an incorrect dequeue order, so it could be simplified to `[] <>< back`.

Comment (gallais) [reply src/Data/Queue/TwoList/Base.agda]: If you insist on this right-to-left presentation then I think the arguments to `mkQ` should
be swapped so that the left-to-right ordering of values stays constant throughout. At the
moment we have a strange reversal (ignoring the different list types for now):
`meaning (mkQ xs ys _) = ys ++ xs` which makes us think backwards

Comment (silas-hw) [reply src/Data/Queue/TwoList/Base.agda]: > `[] <>< back` won't typecheck (the mnemonic is that `<` and `>` stand for backwards and forwards and the overall glyph spells out the type of the two inputs and then of the output; the first of argument to `_<><_` is a backwards list).

Most recent commit uses this and it type checks (for me). `[]` can be used for both backwards and forwards lists.

But yes, I think changing the order of `mkQ` is then worth it. I would still call it 'left-to-right' personally, in that I envision a line of people facing to the right within a queue. Generally I think both are valid and have equally correct interpretations, so I'm not too fussed with which is chosen, just that keeping it as is (and changing the order of `mkQ`) seems easiest.

Comment (gallais) [reply src/Data/Queue/TwoList/Base.agda]: Yeah, re:<><, I confused myself there.

File: src/Data/Queue/TwoList/Base.agda [hunk 41]
```diff
@@ -0,0 +1,123 @@
...
+
+empty : Queue A
+empty = fromList []
+
+enqueue : A → Queue A → Queue A
+enqueue x q with bs ← Queue.back q | Queue.front q
+... | []            = queue ([] <: x) []
+... | front@(_ <: _) = queue front (x ∷ bs)
+
+dequeue : ∀ (q : Queue A) .{{_ : False (empty? q)}} → A × Queue A
```
Comment (gallais) [inline src/Data/Queue/TwoList/Base.agda]: Should `dequeue`'s return type be `Queue A × A` if we are thinking of the
head of the queue as being on the RHS?

Comment (silas-hw) [reply src/Data/Queue/TwoList/Base.agda]: I'm in favour of this!

File: src/Data/List/Relation/Unary/All/Properties.agda [hunk 42]
```diff
@@ -87,6 +87,12 @@ Null? (_ ∷ _) = no ¬Null-∷
 Null-irrelevant : Irrelevant (Null {A = A})
 Null-irrelevant [] [] = refl
 
+nullxs→xs≡[] : Null xs → xs ≡ []
+nullxs→xs≡[] [] = refl
+
+xs≡[]→nullxs : xs ≡ [] → Null xs
+xs≡[]→nullxs xs≡[] rewrite xs≡[] = []
+
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Unary/All/Properties.agda:95]: Can these be refactored to make use of the lemmas added in #3091

File: src/Data/Queue/QueueSpec.agda [hunk 43]
```diff
@@ -0,0 +1,86 @@
...
+
+  dequeue′ : Q A → Maybe (Q A × A)
+  dequeue′ q with empty? q in eq
+  ... | yes _ = nothing
+  ... | no _  = just (dequeue q)
+    where instance
+    _ : False (empty? q)
+    _ rewrite eq = _
+
+-- IsQueue bundles RawQueue with proofs of a Queues correctness,
```
Comment (jamesmckinna) [inline src/Data/Queue/QueueSpec.agda:64]: The operative word here is 'bundle'.

I *think* that `IsQueue`, even if only for consistency with existing distinctions between 'structure' and 'bundle' (eg. see https://github.com/agda/agda-stdlib/discussions/3052), should be considered as a *structure*, and thus *parametrised* on `Q` *and* the `rawQ : RawQueue Q` .

A *bundled* `Queue` would then be a record with three fields:
* the type constructor `Q`
* its associated `rawQ`
* the proof that it, indeed, satisfies `IsQueue`

Cf. #2252

Comment (jamesmckinna) [reply src/Data/Queue/QueueSpec.agda:64]: Oh, and *a propos* @JacquesCarette 's jeremiad in #3052 we should perhaps consider instead write `QueueSig` rather than `RawQueue`...?

Comment (silas-hw) [reply src/Data/Queue/QueueSpec.agda:64]: I see! And from the perspective of a relatively new developer, `XSig` is more immediately obvious than `RawQueue`, so I'm in favor of that

Comment (silas-hw) [reply src/Data/Queue/QueueSpec.agda:64]: And for the bundle, how about 'lifting' the Sig functions to be on the bundle itself?, e.g.

```agda
record Queue (A : Set a) : Set (suc a) where
  field
    Q : Set a → Set a
    q : Q A
    rawQueue : RawQueue A Q
    isQueue : IsQueue A rawQueue

open Queue

-- 'lifted' functions
enqueue  : {a : Level} → {A : Set a} → A → Queue A → Queue A
enqueue x q' = record { Q = q' .Q ; q = RawQueue.enqueue (q' .rawQueue) x (q' .q) ; rawQueue = q' .rawQueue ; isQueue = q' .isQueue }
```

Is there some nice automatic way of doing this?

Comment (jamesmckinna) [reply src/Data/Queue/QueueSpec.agda:64]: Ooh. Maybe I was too hasty/casual in my suggestion above regarding the bundle (I think the structure story makes sense)...

Is it obviously a good idea to allow the basic operations potentially to change the underlying type constructor `Q` upon each invocation? (your suggested lifted versions obviously do not, but it isn't ruled out for the implied API defined by the bundled version?)

Perhaps some more thought required?
